Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Worsening L weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year old man with a history of untreated
hypertension and right corona radiata infarct on ___ who
presents with increased left arm and leg weakness this morning.

On ___ the patient had mild left arm and leg weakness and
numbness on his drive home from work. He went to bed that night
and the next morning he was having trouble walking and his wife
noted a left facial droop. He went to ___ where he was 
found
to have 2 small infarcts in the right corona radiata. Vessel
imaging reportedly showed a right vertebral occlusion so he was
briefly placed on heparin gtt, then changed to just full dose
aspirin. He had an echo which showed and 65% without PFO. He was
sent to rehab yesterday and at that time he reports he was able
to walk and left arm was able to be elevated with a slight 
drift.
While at rehab and at ___ his blood pressure had been
difficult to control. His wife doesn't think it was ever very
low. He also was found to have mildly elevated LFTs so statin
dose was decreased.

Early this morning at 3am the patient woke to use the bathroom
and noted worse leg weakness and a nearly flaccid left arm. He
was sent to ___ where head CT showed no bleed. Because of
known vertebral occlusion he was placed back on heparin gtt with
a bolus at 13:35.
 
On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysphagia, lightheadedness, vertigo, tinnitus
or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal numbness, parasthesiae. No
bowel or bladder incontinence or retention. 
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Stroke as above 
HTN (not known until stroke)

 
Social History:
___
Family History:
Family Hx: Does not know father. No strokes, seizures on 
mother's
side.

 
Physical Exam:
ADMISSION EXAM
Vitals: 98.2 94 159/98 18 98% 
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple
Pulmonary: Lungs CTA bilaterally 
Cardiac: RRR, nl. S1S2
Extremities: no edema bilaterally. 
 
Neurologic: 

-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects.  
Speech
was mildly dysarthric. Able to follow both midline and
appendicular commands. There was no evidence of neglect.
  
-Cranial Nerves: 
II: PERRL 3 to 2mm and brisk.  VFF to confrontation. 
III, IV, VI: EOMI without nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: left lower facial droop. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline with normal strength
 
-Motor: Normal bulk, tone throughout. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc  
L  0    ___   ___  4   5    3+ 4+    5        
R  5    ___   ___  5   5    5  5     5        
 
-Sensory: No deficits to light touch, pinprick, proprioception
throughout. 
 
-DTRs: 
  Bi Tri ___ Pat Ach 
L  2  2    2    2   1 
R  2  2    2    2   1
Plantar response was upgoing on the left.
 
-Coordination: No dysmetria on FNF or HKS on the right, cannot 
on
the left.
 
-Gait: deferred

 
Pertinent Results:
___ 08:25PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 08:25PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:50PM   GLUCOSE-129* UREA N-20 CREAT-1.0 SODIUM-138 
POTASSIUM-4.5 CHLORIDE-104 TOTAL CO2-21* ANION GAP-18
___ 04:50PM   ALT(SGPT)-84* AST(SGOT)-47* ALK PHOS-62 TOT 
BILI-2.1*
___ 04:50PM   cTropnT-<0.01
___ 04:50PM   ALBUMIN-4.3
___ 04:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:50PM   WBC-7.8 RBC-5.13 HGB-16.4 HCT-46.8 MCV-91 
MCH-32.0 MCHC-35.0 RDW-12.8
___ 04:50PM   NEUTS-68.8 ___ MONOS-9.0 EOS-2.2 
BASOS-0.7
___ 04:50PM   PLT COUNT-225
___ 04:50PM   ___ PTT-150* ___

Liver ultrasound:
IMPRESSION:  
1.  Diffusely echogenic liver compatible with hepatic steatosis. 
However, more advanced forms of liver disease such as 
steatohepatitis, cirrhosis, and fibrosis cannot be excluded by 
ultrasound. 
  
2. No focal suspicious liver lesions within the right hepatic 
lobe. The left hepatic lobe is not well visualized on this 
examination. 

MRI brain: IMPRESSION: 
1. New small infarct lateral to the previously identified right 
internal 
capsule infarcts.  No acute intracranial hemorrhage. 
2. Old infarct with associated chronic blood products in the 
left frontal 
lobe.  Chronic small vessel ischemic disease. 

 
Brief Hospital Course:
Mr. ___ was admitted to the stroke service, floor with 
telemetry, for workup of worsened left-sided weakness.

MRI brain showed increased diffusion abnormality in the right 
corona radiata, in the same area as the previous stroke. This 
was thought to be stuttering of his orignial stroke, and his 
blood pressure medications were held for permissive 
hypertension. He was observed for several days, and his 
neurologic exam remained stable. He was therefore discharged off 
of his blood pressure medications, these will be added back on 
gradually at rehab. His LDL was low at 38, and so his 
atorvastatin was stopped.

He underwent a liver ultrasound which showed fatty liver. 
Hepatitis panel was sent and was negative. Further workup was 
deferred to outpatient management.

OUTSTANDING ISSUES
[ ] Held lisinopril and nifedipine for permissive HTN. Please 
add these back on gradually (one at a time) in two to three days 
time, with goal blood pressure 120-140.
[ ] Stroke follow up as previously scheduled on prior admission.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Lisinopril 10 mg PO DAILY 
4. NIFEdipine CR 60 mg PO DAILY 
5. Heparin 5000 UNIT SC TID 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Heparin 5000 UNIT SC TID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Ischemic stroke in the right corona radiata

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ with 
worsening of left arm weakness. We repeated your MRI, and found 
that you had no new strokes, but that the stroke that you 
already had was enlarged somewhat. We stopped your blood 
pressure medications and let your blood pressure go higher to 
improve blood flow to that area.

We did a liver ultrasound that showed fatty liver. Your tests 
for hepatitis were negative. This should be followed up by your 
primary care physician. You also have follow up with Dr. ___ 
in the stroke department here.

We STOPPED your simvastatin, as your cholesterol levels were 
low.

It was a pleasure taking care of you during this 
hospitalization.
 
Followup Instructions:
___